Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
2 months of word finding difficulty. 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
Mr. ___ is a ___ right-handed man with past medical
history notable for type 2 diabetes mellitus (diet controlled),
tobacco use disorder who presents with 2 months of word finding
difficulty and rightfoot weakness. He initially presented to the
emergency department on ___ with exam notable for expressive
aphasia and subtle right sided weakness. His work-up was notable
for chronic appearing L frontal and parietal infarcts. MRI/MRA
was suggested and initial read was consistent with chronic
infarcts of frontal and parietal lobes and no vascular
abnormalities, although technically limited. He was continued on
ASA and started on a statin. He was discharged from the ED with
plan for neurology follow-up as an outpatient. Upon final read 
of
MRA, there was felt to be narrowing of L ICA (although
technically inadequate) as well as several small subacute/acute
infarcts in the left parietal lobe and was called back to ED for
further evaluation. Of note, he has had no new or worsening
symptoms since evaluation on ___. 

To review his initial presentation, he presented with two months
of abrupt onset of word finding difficulty, which he describes 
as
difficulty translating his thoughts into words. He also reported
stuttering, which was new two months ago. He also reports some
subjective right foot weakness. He has been able to walk without
difficulty and has no numbness or tingling. 

He is unable to recall any associated symptoms at the time of
onset of his word finding difficulty, but denies interval
headaches, vision change, gait instability, hearing change, or
focal weakness or numbness.  He additionally denies preceding
chest pain, palpitations, neck trauma, or head trauma. 

On review of systems, Mr. ___ denies lightheadedness, loss 
of
vision, blurred vision, diplopia, vertigo, tinnitus, hearing
difficulty, dysphagia, numbness, parasthesias, bowel or bladder
incontinence or retention, difficulty with gait, recent fever or
chills, night sweats, cough, shortness of breath, chest pain,
nausea, vomiting, diarrhea, constipation, abdominal pain,
arthralgias or myalgias, or rash.

 
Past Medical History:
Type 2 diabetes mellitus (previously on metformin now diet
controlled), tobacco use disorder, remote alcohol use disorder.
 
Social History:
___
Family History:
Per records, notable for colon cancer in Mr. ___ parents.

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
 Vitals: T: 99.2 P: 128 R: 18  BP: 134/68 SpO2: 100% RA
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, 2 cm hypertrophic
skin lesion noted above right eyelid, very poor dentition, no
sinus ttp
 Neck: No nuchal rigidity
 Pulmonary: Breathing comfortably without tachypnea or increased
WOB
 Cardiac: Tachycardic, regular
 Extremities: No ___ edema, some excoriation on right shin

Neurologic:

-Mental Status: Alert, oriented x 3. Prominent expressive 
aphasia
with intact comprehension and impaired repetition. Only able to
name some high- and no low-frequency objects.  Slight labial
dysarthria. Able to follow both midline and appendicular
commands. No visual neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with no
nystagmus. VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: Right NLFF with assoc right ptosis, symmetric facial
activation.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Right-sided parietal lift
with slight finger curl. Low amplitude high frequency tremor 
with
arms outstretched. 
   Delt Bic Tri WrE FE IP Quad Ham TA Gastroc
 L  5    ___  ___    5  5     5   
 R  5    ___  ___    5  5-    5   

-Sensory: No deficits to light touch throughout, though with
right-sided extinction to DSS in the upper extremity.

-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   2
 R  2  2    2    2   2

-Coordination:  no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: narrow based gait w/ good arm swing, no sway. Negative
Romberg.

DISCHARGE PHYSICAL EXAMINATION: 
Vitals: 
Temperature: 98
Blood pressure: 105/64 
Heart rate: 66 
Respiratory rate: 18 
Oxygen saturation: 100% 

General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic examination:
Mental status: 
Patient does not know month or year.  Patient able to count to
___ without difficulty, but stops at about 10 when going
backwards.  Patient with difficulty with repetition, reading, 
and
following simple commands.  Patient with difficulty using
language with difficulty producing words.  He has no difficulty
with understanding examiner's questions. 

Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: Right nasal labial fold flattening  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

Motor: 
Patient has expected bulk and tone and has no focal weakness in
the upper and lower extremities with the exception of 4+/5
strength at the right knee flexors.  No tremors. 

Sensory: 
No deficits to light touch, proprioception throughout.

Reflexes:
Deferred 

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
Deferred 

 
Pertinent Results:
Imaging: 
MRI and MRA of brain ___: 
Likely several small acute to subacute infarctions in the left
parietal lobe. 
Suspected subacute stroke in the left genu/left forceps minor. 
Evidence of multiple old infarcts in the left frontal and
parietal lobes predominantly in the watershed area.  This
together with the suspicion of a decreased left ICA diameter
(which was technically inadequately imaged) suggests left 
carotid
artery stenosis for which repeat imaging or CTA should 
be performed. 
Almost complete opacification of the left maxillary sinus and
sinusitis should be excluded. 

CTA head and neck ___: 
Extensive hypodensities in the left frontoparietal lobes
compatible with acute to subacute infarcts better evaluated on
prior MRI from ___.  
No evidence of acute fracture. 

 
Brief Hospital Course:
Patient is a ___ right-handed man with past medical 
history notable for DM2 (diet controlled) and tobacco use who 
presented with 2 months of word finding difficulty and right 
foot weakness and whom was  found to have chronic left frontal 
and parietal infarcts as well as acute/subacute infarcts.  Given 
unilateral distribution ACA and MCA distribution, would consider 
artery-artery likely source, especially given possible L ICA 
stenosis. Could also consider cardioembolic source given large 
vessel territory; however no hyperthyroidism, no snoring (OSA 
risk factor).  Patient's TTE was also unremarkable.  Patient was 
discharged on his home aspirin 81 mg and atorvastatin 40 mg 
daily and encouraged to stop smoking.  Patient was prescribed 
nicotine patches to help with smoking sensation. Patient will 
follow up with Dr. ___ as an outpatient which has been 
scheduled. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL=84) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 14 mg/24 hour 1 Patch Daily Disp #*30 
Patch Refills:*5 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*5 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*5 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left frontoparietal acute versus subacute and chronic strokes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

During this hospitalization you were admitted because of 
concerns about word findings difficulties are were found to have 
strokes in regions of the brain that can cause your symptoms.  
In order to prevent you from having future strokes, we have 
prescribed you aspirin 81 mg daily (a blood thinner) and 
atorvastatin 40 mg daily (a cholesterol reducer).  It will be 
important for you to not smoke anymore as this increases your 
risk of having a stroke.  We have prescribed you a nicotine 
patch to help you stop smoking.  Please come back to be 
evaluated if your symptoms become worse or if you have other 
concerning symptoms. 

Thank you for allowing us to care for you, 
___ Stroke Team 

 
 
Followup Instructions:
___